US04360680
3-Amino-5-(p-chlorophenyl)-1-phenyl-2-pyrazoline
A mixture of 500 ml. of absolute ethanol, 5.0 ml. of 50% choline in methanol, 32.4 g. of phenylhydrazine and 49.08 g. of p-chlorocinnamonitrile is refluxed for 7 hours then is allowed to stand at room temperature for 16 hours, then is evaporated to dryness in vacuo. The procedure of Example 16 is followed to give 12.0 g. of the product of the Example as colorless needles, m.p. 183.5°-185.5° C.

reactant | ethanol | C(C)O | C2H6O
reactant | choline | OCC[N+](C)(C)C
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | p-chlorocinnamonitrile | ClC1=CC=C(C=CC#N)C=C1 | C9H6ClN
solvent | methanol | CO | CH4O
product | 3-Amino-5-(p-chlorophenyl)-1-phenyl-2-pyrazoline | NC1=NN(C(C1)C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C15H14ClN3
